US06632909B2
3(E)-(3,4-Diethoxyphenyl)acrylic acid
1.0 g (4.00 mmol) of methyl 3(E)-(3,4-diethoxyphenyl)acrylate is suspended in 30 ml of a 10% solution of potassium hydroxide in methanol. Thereafter, 2 ml of water are added and the mixture is heated to 70° C. for 3 hours. The reaction mixture is then cooled and is partitioned between diethyl ether and water, the organic phase is washed several times with saturated sodium chloride solution and the combined aqueous phases are adjusted to pH 4 with a 25% hydrochloric acid solution and are extracted several times with methylene chloride. The methylene chloride phases are combined, dried over magnesium sulfate, filtered and evaporated down. This gives 3(E)-(3,4-diethoxyphenyl)acrylic acid.

reactant | methyl 3(E)-(3,4-diethoxyphenyl)acrylate | 4.00 mmol, 1.0 g | C(C)OC=1C=C(C=CC1OCC)/C=C/C(=O)OC | C14H18O4
reactant | potassium hydroxide | [OH-].[K+]
reactant | water | 2 ml | O | H2O
solvent | methanol | CO | CH4O
product | 3(E)-(3,4-Diethoxyphenyl)acrylic acid | C(C)OC=1C=C(C=CC1OCC)/C=C/C(=O)O | C13H16O4
